US07816371B2
c. 2-(2-(2-Acetoxyethyl)-5-(2-(2-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxo-1,2-dihydroisoquinolin-6-ylamino)ethyl acetate
A reaction vial was charged with acetic acid 2-[6-(2-acetoxy-ethylamino)-5-amino-1-oxo-1H-isoquinolin-2-yl]-ethyl ester (100.00 mg, 0.00028788 mol), 2-(2-fluoro-3-(trifluoromethyl)phenyl)acetic acid (76.74 mg, 0.0003454 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (274 mg, 0.000720 mol), N,N-diisopropylethylamine (0.125 mL, 0.000720 mol) and methylene chloride (3 mL, 0.05 mol) and the reaction heated at 40° C. for 5 h. The solvent was removed and the residue purified by flash chromatography to obtain the product as an off white solid. MS m/z=552.3 (M+H).

reactant | acetic acid 2-[6-(2-acetoxy-ethylamino)-5-amino-1-oxo-1H-isoquinolin-2-yl]-ethyl ester | 0.00028788 mol, 100.00 mg | C(C)(=O)OCCNC=1C(=C2C=CN(C(C2=CC1)=O)CCOC(C)=O)N | C17H21N3O5
reactant | 2-(2-fluoro-3-(trifluoromethyl)phenyl)acetic acid | 0.0003454 mol, 76.74 mg | FC1=C(C=CC=C1C(F)(F)F)CC(=O)O | C9H6F4O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.000720 mol, 274 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.000720 mol, 0.125 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylene chloride | 0.05 mol, 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(2-Acetoxyethyl)-5-(2-(2-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxo-1,2-dihydroisoquinolin-6-ylamino)ethyl acetate | C(C)(=O)OCCNC=1C(=C2C=CN(C(C2=CC1)=O)CCOC(C)=O)NC(CC1=C(C(=CC=C1)C(F)(F)F)F)=O | C26H25F4N3O6
